US07906645B2
To a stirred solution of N-(3,4-dichlorophenyl)piperazine-1-carboxamide (2.00 g, 7.30 mmol) in DMF (150 ml) was added DIPEA (3.8 ml, 21.9 mmol), 3-carboxy-N-boc-proline (Arch Corporation) (1.727 g, 8.02 mmol) and HATU (3.051 g, 8.02 mmol) and the reaction stirred at ambient temperature for overnight (convenience). The solvents were then removed under reduced pressure. The resulting gum was then partitioned between EtOAc and water, extracted, the organic phase washed with saturated sodium bicarbonate solution and evaporated to dryness. The resulting foam was then purified on Isco™ Companion (40 g column:EtOAc) to give the product tert-butyl 3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]pyrrolidine-1-carboxylate as a pale yellow foam (3.396 g, 7.20 mmol, 99%).

reactant | N-(3,4-dichlorophenyl)piperazine-1-carboxamide | 7.30 mmol, 2.00 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CCNCC1 | C11H13Cl2N3O
reactant | DIPEA | 21.9 mmol, 3.8 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-carboxy-N-boc-proline | 8.02 mmol, 1.727 g | C(=O)(O)C1[C@H](N(CC1)C(=O)OC(C)(C)C)C(=O)O | C11H17NO6
reactant | HATU | 8.02 mmol, 3.051 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)carbonyl]pyrrolidine-1-carboxylate | 7.20 mmol, 3.396 g, 99% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CN(CC1)C(=O)OC(C)(C)C | C21H28Cl2N4O4
